US04409214
To an aqueous solution (27 ml) of sodium hydroxide (2.1 g) were added ethyl 2-(5-tritylamino-2H-tetrazol-2-yl)acetate (14.2 g), methanol (50 ml) and tetrahydrofuran (100 ml), and the mixture was stirred at 40° C. for 2 hours. After the organic solvent was removed by evaporation, to the residue were added water (50 ml) and ethyl acetate (50 ml), followed by separating out the aqueous layer. Thereto was added ethyl acetate (100 ml) and then adjusted to pH 1.5 with 10% hydrochloric acid. The aqueous solution was washed with an aqueous sodium chloride (50 ml) and dried over magnesium sulfate. Removal of the solvent gave a residue, which was pulverized with diisopropyl ether to obtain 2-(5-tritylamino-2H-tetrazol-2-yl)acetic acid (9.0 g).

reactant | sodium hydroxide | 27 ml, 2.1 g | [OH-].[Na+]
reactant | ethyl 2-(5-tritylamino-2H-tetrazol-2-yl)acetate | 14.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1N=NN(N1)CC(=O)OCC | C24H23N5O2
reactant | methanol | 50 ml | CO | CH4O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(5-tritylamino-2H-tetrazol-2-yl)acetic acid | 9.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1N=NN(N1)CC(=O)O | C22H19N5O2
